* GF180MCU integrated 6-bit Wilkinson conversion slice baseline
.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical

.param VDD=3.3
.include work/vin_level.spice
.param TCOUNT=50n
VDD_SOURCE vdd 0 {VDD}
VIN vin 0 {VIN_LEVEL}
VBIAS_COMP bias_comp 0 0.85
VBIAS_RAMP bias_ramp 0 2.2

* Track for 50 ns, then hold throughout conversion.
VSAMPLE sample 0 PULSE({VDD} 0 50n 1n 1n 3u 4u)
VSAMPLEB sample_b 0 PULSE(0 {VDD} 50n 1n 1n 3u 4u)
XSWN vin sample hold 0 nfet_03v3 L=0.28u W=10u nf=10 m=1
XSWP vin sample_b hold vdd pfet_03v3 L=0.28u W=20u nf=10 m=1
CHOLD hold 0 1p
RLEAK_HOLD hold 0 1T

* Reset the ramp until 100 ns, then charge it from the PMOS source.
VRESET reset 0 PULSE({VDD} 0 100n 1n 1n 2700n 4u)
XRAMP_SOURCE ramp bias_ramp vdd vdd pfet_03v3 L=2u W=1u nf=1 m=1
XRAMP_RESET ramp reset 0 0 nfet_03v3 L=0.5u W=10u nf=5 m=1
CRAMP ramp 0 1p
RLEAK_RAMP ramp 0 10T

* Comparator: held sample on the positive input, ramp on the negative input.
XINP left hold tail 0 nfet_03v3 L=0.5u W=20u nf=10 m=1
XINN outa ramp tail 0 nfet_03v3 L=0.5u W=20u nf=10 m=1
XLOADD left left vdd vdd pfet_03v3 L=0.5u W=40u nf=10 m=1
XLOADM outa left vdd vdd pfet_03v3 L=0.5u W=40u nf=10 m=1
XTAIL tail bias_comp 0 0 nfet_03v3 L=1u W=20u nf=10 m=1
XBUF1 outb outa 0 0 nfet_03v3 L=0.28u W=4u nf=4 m=1
XBUF2 outb outa vdd vdd pfet_03v3 L=0.28u W=8u nf=4 m=1
XBUF3 compare_out outb 0 0 nfet_03v3 L=0.28u W=8u nf=4 m=1
XBUF4 compare_out outb vdd vdd pfet_03v3 L=0.28u W=16u nf=4 m=1
COUTA outa 0 20f
COUT compare_out 0 50f

.tran 20p 2800n
.measure tran held_voltage FIND v(hold) AT=90n
.measure tran acquisition_error PARAM='abs(VIN_LEVEL-held_voltage)'
.measure tran conversion_start WHEN v(reset)=1.65 FALL=1
.measure tran compare_time WHEN v(compare_out)=1.65 FALL=1
.measure tran conversion_time PARAM='compare_time-conversion_start'
.measure tran output_code PARAM='floor(conversion_time/TCOUNT)'
.measure tran expected_code PARAM='floor(VIN_LEVEL/(7.67505e5*TCOUNT))'
.measure tran code_error PARAM='output_code-expected_code'
.measure tran avg_power AVG par('-VDD*i(VDD_SOURCE)') FROM=100n TO=2700n

.control
set wr_singlescale
set wr_vecnames
run
wrdata work/wilkinson_slice.csv v(vin) v(hold) v(ramp) v(compare_out)
quit
.endc

.end
